US07547691B2
A stirred suspension of 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide (5.59 g, 15.3 mmol) in 1.4-dioxane (60 mL), (3-amino-propyl)-carbamic acid tert-butyl ester (2.70 mL, 2.69 mg, 15.5 mmol) in N,N-diisopropylethylamine (5.20 mL, 3.86 g, 29.9 mmol) is heated at 97° C. for 120 hours. The mixture is then cooled to room temperature, diluted with dichloromethane (120 mL), filtered, washed with dichloromethane (2×25 mL), and dried to provide {3-[5-chloro-4-(4-cyclopropylcarbamoyl-benzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-propyl}-carbamic acid tert-butyl ester (5.00 g, 65%). This intermediate (4.99 g, 9.94 mmol) is suspended in methanol (120 mL) and treated with 10% aqueous HCl (10 mL) and the mixture is heated at 100° C. for 24 hours. The mixture is then cooled to room temperature, quenched with 2 N NaOH (20 mL), filtered, washed with H2O (60 mL), dichloromethane (60 mL), and diethyl ether (60 mL), and dried to provide the title compound (3.99 g, 99%).

reactant | 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | 15.3 mmol, 5.59 g | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)Cl | C16H11Cl2N3OS
reactant | (3-amino-propyl)-carbamic acid tert-butyl ester | 15.5 mmol, 2.70 mL, 2.69 mg | C(C)(C)(C)OC(NCCCN)=O | C8H18N2O2
reactant | N,N-diisopropylethylamine | 29.9 mmol, 5.20 mL, 3.86 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1.4-dioxane | 60 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
product | {3-[5-chloro-4-(4-cyclopropylcarbamoyl-benzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-propyl}-carbamic acid tert-butyl ester | 5.00 g, 65% | C(C)(C)(C)OC(NCCCNC1=NC=C(C(=N1)C1=CC2=C(S1)C=CC=C2C(NC2CC2)=O)Cl)=O | C24H28ClN5O3S
